US04242518
8.7 parts of β-mercaptopropionitrile are added to a solution of 2.6 parts of sodium in 175 parts by volume of methanol at 22° C., whilst stirring. After 10 minutes, 15.5 parts of chloroacetophenone at 35° C. is added in the course of 30 minutes and the temperature is maintained at 22° C. The mixture is stirred for a further 30 minutes at 22° C. and is then heated for 2 hours at 65° C. under reflux. When it has cooled, the reaction mixture is neutralized with acetic acid and is poured into 250 parts of ice water, and the batch is extracted with three times 50 parts by volume of chloroform. After evaporating the combined, dried chloroform extracts, an oily residue remains, which is triturated with 50 parts of cold alcohol and hereupon crystallizes. 17.5 parts (85% of theory) of 3-amino-3-benzoyl-dihydrothiophene of melting point 147°-149° C. are obtained.

reactant | β-mercaptopropionitrile | SCCC#N | C3H5NS
reactant | sodium | [Na] | Na
reactant | methanol | CO | CH4O
reactant | chloroacetophenone | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-amino-3-benzoyl-dihydrothiophene | 85% | NC1(CSCC1)C(C1=CC=CC=C1)=O | C11H13NOS
